US05274121
Intermediate compount 004 (557 mg, 3.66 mmol) was added to a solution of succinic anhydride (330 mg, 3.30 mmol) and triethylamine (20.51 mL, 3.66 mmol) in MeCN was removed under a stream of N2, and the crude product was chromatographed on a silica gel column (CHCl3 /MeOH/AcOH, 10/10/1) to give N-Methyl-N-[4-(1-pyrrolidinyl)-2-butynyl]-3-carboxypropanamide as a light brown solid. MS (CI-NH3), m/e 253 (MH+); TLC (CHCl3 /MeOH/AcOH: 10/10/1), Rf 0.34; 1H NMR (CDCl3) δ1.82 (br s, 4 H), 2.48 (t, J=5.8 Hz, 2 H), (t, J=5.8 Hz, 2 H), 2.68 (br s, 4 H), 2.93 & 3.06* (s, 3 H), 3.44 (s, 2 H), 4.11 & 4.21* (s, 2 H).

reactant | succinic anhydride | 3.30 mmol, 330 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | triethylamine | 3.66 mmol, 20.51 mL | C(C)N(CC)CC | C6H15N
solvent | MeCN | CC#N | C2H3N
product | N-Methyl-N-[4-(1-pyrrolidinyl)-2-butynyl]-3-carboxypropanamide | CN(C(CCC(=O)O)=O)CC#CCN1CCCC1 | C13H20N2O3
